US09301951B2
N1-(2-(4-((2-methoxyethyl)(methyl)carbamoyl)piperazin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
This compound was prepared according to the procedure described for the synthesis of N1-(2-(4-((2-methoxyethyl)carbamoyl)piperazin-1-yl)ethyl)-N3-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N1-methylisophthalamide Example 207 substituting methoxy-N-methylethanamine in place of 2-methoxyethanamine LC-MS (ES, m/z): 843 [M+H]+ H-NMR (300 MHz, CD3OD, ppm): 8.99 (d, J=5.1 Hz, 1H), 8.77 (d, J=9.0 Hz, 1H), 8.46 (s, 1H), 8.19 (m, 3H), 7.90 (m, 1H), 7.81 (d, J=7.8 Hz, 1H), 7.74˜7.67 (m, 4H), 7.62˜7.53 (m, 2H), 4.72 (s, 2H), 4.00 (s, 2H), 3.90˜3.65 (m, 9H), 3.57 (d, J=5.1 Hz, 1H), 3.47 (d, J=4.8 Hz, 1H), 3.34 (s, 3H), 3.12 (s, 3H), 2.97 (s, 3H), 2.04 (d, J=4.8 Hz, 4H), 1.83 (d, J=4.2 Hz, 2H).

reactant | N1-(2-(4-((2-methoxyethyl)carbamoyl)piperazin-1-yl)ethyl)-N3-(2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)-N1-methylisophthalamide | COCCNC(=O)N1CCN(CC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)C | C44H51F3N8O5
reactant | methoxy-N-methylethanamine | COC(C)NC | C4H11NO
product | N1-(2-(4-((2-methoxyethyl)(methyl)carbamoyl)piperazin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | COCCN(C(=O)N1CCN(CC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)C)C | C45H53F3N8O5
